US03952013
A mixture of 3 parts of ethyl 6-allyloxy-1-thiachromone-2-carboxylate, 0.87 parts of sodium bicarbonate and 4 parts of methanol in 25 parts of water was heated under reflux for several minutes then the methanol was distilled. The aqueous solution was diluted with 25 parts of water, filtered and acidified with concentrated hydrochloric acid to give a precipitate which was filtered off, washed with water and dried to give 2.6 parts of 6-allyloxy-1-thiachromone-2-carboxylic acid, melting point, 200°-200.5°C.

reactant | ethyl 6-allyloxy-1-thiachromone-2-carboxylate | C(C=C)OC=1C=C2C(C=C(SC2=CC1)C(=O)OCC)=O | C15H14O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 6-allyloxy-1-thiachromone-2-carboxylic acid | C(C=C)OC=1C=C2C(C=C(SC2=CC1)C(=O)O)=O | C13H10O4S
